US07265115B2
tert-butyl (1S,4S)-5-(3-methyl-5-isothiazolyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate, prepared as described in (J. Med. Chem., (1988) 31, 1598-1611) and 5-bromo-3-methylisothiazole, prepared as described in (U.S. Pat. No. 3,840,665) were coupled according to the procedure described in Example 1A to provide the title compound.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 5-bromo-3-methylisothiazole | BrC1=CC(=NS1)C | C4H4BrNS
product | tert-butyl (1S,4S)-5-(3-methyl-5-isothiazolyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | CC1=NSC(=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C14H21N3O2S
